* C:\Users\lauta\OneDrive\Documentos\LTspice\Projects\TC1-Generador-Se-ales\Simulaciones\Oscilador\Puente Wien.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 12
V2 -V 0 -12
R1 N002 N001 10k
R2 N001 0 4.9K
R3 N002 N005 {R}
R4 0 N003 {R}
C1 N005 N003 .01µ
C2 N003 0 .01µ
X§U2 N003 N001 +V -V N002 LT1001
X§U3 N002 OUT1 +V -V OUT1 LT1001
X§U1 N007 0 +V -V N006 LT1001
V3 N007 0 SINE(1 14 100)
X§U4 OUT1 0 +V -V N004 RH1028
.tran 0 .1 0 10u startup
* This example schematic is supplied for informational/educational purposes only.
.step param R 1k 100k 10k
* .param R=1k
.lib LTC.lib
.lib RH1028.sub
.backanno
.end
